US05723450
3-Chloro-4-(3-isoamylcyclopentyl)amino-2-methylpyridine
Preparation was carried out as in Example 59 from 3,4-dichloro-2-methylpyridine and 3-isoamylcyclopentylamine. Yield: 61%

reactant | 3,4-dichloro-2-methylpyridine | ClC=1C(=NC=CC1Cl)C | C6H5Cl2N
reactant | 3-isoamylcyclopentylamine | C(CC(C)C)C1CC(CC1)N | C10H21N
product | 3-Chloro-4-(3-isoamylcyclopentyl)amino-2-methylpyridine | Yield: 61% | ClC=1C(=NC=CC1NC1CC(CC1)CCC(C)C)C | C16H25ClN2
